US05391570
4-(3,4-Difluorophenyl)-4-hydroxycyclohexanone
A solution of 8-(3,4-difluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol (5.4 g, 20 mmole) in acetone-1N hydrochloric acid (1:1) was stirred for 4 hr. The acetone was removed in vacuo and the crude material crystallized from isopropyl ether to give the product (62%, mp: 84°-85 ° C.).

reactant | 8-(3,4-difluorophenyl)-1,4-dioxaspiro[4.5]decan-8-ol | 20 mmole, 5.4 g | FC=1C=C(C=CC1F)C1(CCC2(OCCO2)CC1)O | C14H16F2O3
solvent | acetone | 1N | CC(=O)C | C3H6O
product | 4-(3,4-Difluorophenyl)-4-hydroxycyclohexanone | 62% | FC=1C=C(C=CC1F)C1(CCC(CC1)=O)O | C12H12F2O2
